US06281361B1
10 g of 5,7-di-tert-butyl-3-hydroxy-3H-benzofuran-2-one (prepared as described in Ex. 1a of U.S. Pat. No. 5,614,572) are placed in 25 ml of 1,2-dichlorobenzene, and 0.5 g of 4-dimethylaminopyridine and 3 ml of thionyl chloride are added thereto. The solution is then slowly heated to 373 K at such a rate that the evolution of HCl and SO2 remains vigorous yet controllable. It is then stirred at that temperature for a further ½ hour. The temperature is then increased to reflux temperature. After 75 min, the 1,2-dichlorobenzene is distilled off, under reduced pressure at the end. The isoxindigo is crystallised out by adding 30 ml of acetonitrile to the residue, is filtered off, washed with acetonitrile and dried, yielding 6.8 g (73% of the theoretical yield) of 5,7,5′,7′-tetra-tert-butyl-[3,3]bibenzofuranylidene-2,2′-dione of formula (LIa).

reactant | 5,7-di-tert-butyl-3-hydroxy-3H-benzofuran-2-one | 10 g | C(C)(C)(C)C=1C=C(C2=C(C(C(O2)=O)O)C1)C(C)(C)C | C16H22O3
reactant | thionyl chloride | 3 ml | S(=O)(Cl)Cl | Cl2OS
reactant | HCl | Cl | ClH
solvent | 1,2-dichlorobenzene | 25 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
catalyst | 4-dimethylaminopyridine | 0.5 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 5,7,5′,7′-tetra-tert-butyl-[3,3]bibenzofuranylidene-2,2′-dione | C(C)(C)(C)C=1C=C(C2=C(C(C(O2)=O)=C2C(OC3=C2C=C(C=C3C(C)(C)C)C(C)(C)C)=O)C1)C(C)(C)C | C32H40O4
